US07820664B2
Step A: Preparation of 4,6-dichloro-pyridazine-3-carboxylic acid:
To a solution of methyl 4,6-dichloro-pyridazine-3-carboxylate (6.01 g, 29.03 mmol, WO 2004/031174) in THF (29 ml) at 0° C. is added 29 ml of aqueous 1.0 M LiOH with stirring. The resulted mixture is stirred continuously at 0° C. for 40 min and monitored by TLC. The reaction mixture is diluted with water, and acidified to pH 1-2 with aqueous 1.0 M HCl. The crude product is suspended between the organic and aqueous layers. After filtration and washed with water and hexane, and dried under vacuum, the product is obtained.

reactant | methyl 4,6-dichloro-pyridazine-3-carboxylate | 29.03 mmol, 6.01 g | ClC1=C(N=NC(=C1)Cl)C(=O)OC | C6H4Cl2N2O2
reactant | LiOH | 1.0 M | [Li+].[OH-]
reactant | HCl | 1.0 M | Cl | ClH
solvent | THF | 29 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4,6-dichloro-pyridazine-3-carboxylic acid | ClC1=C(N=NC(=C1)Cl)C(=O)O | C5H2Cl2N2O2
